* File: latch.pex.netlist.pex
* Created: Fri Sep 17 19:41:02 2021
* Program "Calibre xRC"
* Version "v2020.4_34.17"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_LATCH_Q' 5 7 10 11 13 14 15 16 17 18 22 23 28 31 36 37 38 39 42 46 48
+ 49 50 58 60 61 64 69 71 74 77 79 89 119 120
c153 122 0 0.00284173f
c154 121 0 6.48658e-20
c155 120 0 8.23375e-20
c156 119 0 0.107918f
c157 108 0 0.0019139f
c158 104 0 0.00888956f
c159 103 0 0.00363663f
c160 79 0 0.0175755f
c161 71 0 4.76818e-19
c162 69 0 4.34865e-19
c163 64 0 0.0872339f
c164 61 0 0.00945149f
c165 60 0 0.00944198f
c166 58 0 0.00808441f
c167 53 0 0.00888514f
c168 52 0 0.00712839f
c169 50 0 2.26527e-19
c170 49 0 0.12387f
c171 42 0 0.0056964f
c172 39 0 0.00520724f
c173 38 0 0.00362609f
c174 37 0 0.00364006f
c175 36 0 0.00488076f
c176 31 0 0.0081208f
c177 23 0 4.34865e-19
c178 22 0 6.104e-19
c179 18 0 9.77381e-20
c180 17 0 9.46158e-19
c181 16 0 1.24409e-19
c182 15 0 8.10384e-19
c183 14 0 0.00913194f
c184 13 0 0.00345659f
c185 11 0 0.0102542f
c186 10 0 0.0143559f
c187 5 0 0.0141464f
r188 121 122 0.09282
r189 120 121 0.00754963
r190 119 120 0.0098
r191 104 106 0.0820146
r192 103 122 0.09373
r193 103 104 2
r194 88 89 0.0704631
r195 79 93 2
r196 79 80 35
r197 77 80 5.5
r198 71 88 0.00742047
r199 71 72 17.5
r200 69 72 2.25
r201 65 119 0.0885
r202 65 93 0.504
r203 64 65 2
r204 62 64 0.0994712
r205 60 62 0.0897485
r206 60 61 2.54345
r207 58 98 2
r208 57 58 2
r209 55 61 0.145646
r210 55 57 0.231221
r211 53 108 0.0838101
r212 52 53 2
r213 49 50 0.00906224
r214 48 52 0.14833
r215 48 50 0.0455
r216 46 101 0.0572109
r217 46 100 0.0595461
r218 45 49 0.5955
r219 45 46 2
r220 42 89 0.0716374
r221 41 45 0.78
r222 41 42 2
r223 39 108 0.0462727
r224 38 39 0.152741
r225 37 38 0.103094
r226 36 37 0.105161
r227 36 106 0.0976869
r228 31 101 0.0398756
r229 28 100 0.0410484
r230 27 28 0.0410484
r231 23 74 2.25
r232 23 31 35
r233 22 27 0.00793944
r234 22 23 35
r235 17 18 0.00677033
r236 16 17 0.158187
r237 15 16 0.00677033
r238 13 18 0.0864
r239 13 14 30
r240 11 98 0.120406
r241 11 15 0.0277333
r242 8 14 9.41813
r243 8 10 57
r244 5 14 9.60275
r245 5 7 37.6
.ends

.subckt PM_LATCH_R 5 7 10 11 14 16 17 18 19 20 21 23 25 28 29 36 37
c72 37 0 2.1394e-19
c73 36 0 6.53325e-19
c74 29 0 0.00385429f
c75 28 0 0.00864591f
c76 23 0 0.00163868f
c77 21 0 0.00106331f
c78 20 0 0.00581475f
c79 19 0 3.8681e-19
c80 18 0 9.73184e-19
c81 17 0 4.33203e-19
c82 16 0 0.00292139f
c83 14 0 0.00961537f
c84 11 0 0.00247405f
c85 10 0 0.0150095f
c86 5 0 0.0137326f
r87 36 37 0.0160377
r88 29 37 0.0169811
r89 28 29 2
r90 25 28 1.5825
r91 23 36 0.0147124
r92 22 23 0.10133
r93 20 21 0.0163609
r94 19 20 0.174933
r95 18 19 0.0218145
r96 17 18 0.184751
r97 16 17 0.0313584
r98 13 16 0.0608
r99 13 14 30
r100 11 22 0.0953265
r101 11 21 0.0177243
r102 8 14 9.41813
r103 8 10 59.6
r104 5 14 9.60275
r105 5 7 35
.ends

.subckt PM_LATCH_S 5 7 10 11 13 14 15 16 17 18 21 26
c68 26 0 0.00426003f
c69 21 0 0.00116268f
c70 18 0 9.77381e-20
c71 17 0 9.46158e-19
c72 16 0 1.24409e-19
c73 15 0 0.00114324f
c74 14 0 0.00917678f
c75 13 0 0.00355644f
c76 11 0 0.00821984f
c77 10 0 0.014397f
c78 5 0 0.014383f
r79 26 27 2
r80 21 26 0.225
r81 17 18 0.00677033
r82 16 17 0.158187
r83 15 16 0.00677033
r84 13 18 0.0853333
r85 13 14 30
r86 11 27 0.121147
r87 11 15 0.0277333
r88 8 14 9.41813
r89 8 10 57
r90 5 14 9.60275
r91 5 7 37.6
.ends

.subckt PM_LATCH_Q 5 7 10 13 14 19 22 27 28 32 34 37 38 39 42 44 45 46 47 48 49
+ 51 52 58 59 60 61 63 71 73 74 75 77 78 82 85 86 87 89 90 95 97 100 103 105 131
+ 132
c176 132 0 2.23212e-19
c177 131 0 5.77457e-19
c178 128 0 0.00430038f
c179 105 0 0.0151969f
c180 97 0 0.00890868f
c181 95 0 4.34865e-19
c182 90 0 0.00232173f
c183 89 0 1.52835e-19
c184 87 0 8.47852e-19
c185 86 0 0.00428347f
c186 85 0 0.00271868f
c187 82 0 0.00644443f
c188 78 0 0.00436048f
c189 77 0 0.00246602f
c190 75 0 4.76364e-20
c191 74 0 0.126637f
c192 63 0 0.00119194f
c193 62 0 1.13542e-19
c194 61 0 8.08689e-20
c195 60 0 0.11187f
c196 59 0 0.00564328f
c197 58 0 0.00119701f
c198 52 0 0.001117f
c199 51 0 0.00159299f
c200 49 0 0.00129406f
c201 48 0 0.00688319f
c202 47 0 3.85242e-19
c203 46 0 9.73184e-19
c204 45 0 4.30948e-19
c205 44 0 0.00300196f
c206 42 0 0.00937099f
c207 39 0 0.00255882f
c208 38 0 0.00429992f
c209 37 0 0.0036819f
c210 34 0 0.00112046f
c211 32 0 0.00158825f
c212 28 0 0.00236465f
c213 27 0 0.00349253f
c214 22 0 0.00560215f
c215 14 0 4.34865e-19
c216 13 0 3.6625e-19
c217 10 0 0.0147998f
c218 5 0 0.0134029f
r219 131 132 0.0161863
r220 105 106 35
r221 103 106 5.555
r222 97 98 17.5
r223 95 98 2.2275
r224 89 90 0.915
r225 88 89 0.00592742
r226 87 88 0.00226556
r227 86 132 0.0171384
r228 85 90 0.915
r229 85 86 2
r230 82 128 0.0865831
r231 81 87 0.01638
r232 81 82 2
r233 78 122 0.00286556
r234 77 78 2
r235 74 75 0.0056639
r236 73 77 0.14833
r237 73 75 0.04823
r238 70 74 0.594
r239 70 71 2
r240 67 97 0.149147
r241 66 70 0.78
r242 66 67 2
r243 62 63 0.09282
r244 61 62 0.0103807
r245 60 61 0.00686
r246 59 121 0.0820146
r247 58 63 0.09373
r248 58 59 2
r249 54 60 0.591
r250 54 105 2
r251 51 131 0.0148976
r252 50 51 0.102511
r253 48 49 0.0163609
r254 47 48 0.192
r255 46 47 0.0218145
r256 45 46 0.184751
r257 44 45 0.0313584
r258 41 44 0.0618667
r259 41 42 30
r260 39 50 0.0953265
r261 39 49 0.0177243
r262 38 128 0.1248
r263 37 38 0.123733
r264 36 52 0.0235202
r265 36 37 0.0401338
r266 33 34 0.0359899
r267 32 122 0.0331885
r268 32 34 0.0359899
r269 31 52 0.0664487
r270 31 33 0.0380356
r271 29 30 0.00245362
r272 28 29 0.10189
r273 27 28 0.105161
r274 27 121 0.0976869
r275 26 52 0.0664487
r276 26 30 0.00368044
r277 20 71 0.0572109
r278 20 22 0.0398756
r279 18 19 0.0410484
r280 14 100 2.2725
r281 14 22 35
r282 13 18 0.00804356
r283 13 14 35
r284 11 71 0.0595461
r285 11 19 0.0410484
r286 8 42 9.41813
r287 8 10 59.6
r288 5 42 9.60275
r289 5 7 35
.ends

.subckt PM_LATCH_VCC 1 2 4 8 9 10 11 13 14 15 16 17 18 19 21 25 26 27 38 40 41
+ 43 44 58
c58 60 0 0.00691778f
c59 58 0 0.153079f
c60 43 0 5.62767e-19
c61 40 0 5.62767e-19
c62 38 0 0.153072f
c63 27 0 1.01668e-19
c64 26 0 0.00308358f
c65 21 0 0.00121701f
c66 19 0 0.0189119f
c67 18 0 0.00284228f
c68 17 0 0.033075f
c69 16 0 0.00554616f
c70 15 0 0.0252386f
c71 14 0 0.00283444f
c72 13 0 0.00668813f
c73 11 0 0.00693508f
c74 10 0 1.55566e-19
c75 9 0 0.00308292f
c76 4 0 9.69382e-19
c77 2 0 0.0119969f
r78 47 60 0.0914062
r79 47 58 0.000897778
r80 47 48 35
r81 35 54 35
r82 34 38 0.70912
r83 34 35 2
r84 26 27 0.00499976
r85 25 26 0.204914
r86 24 25 0.150926
r87 22 43 2.25
r88 22 44 2.25
r89 21 24 0.114511
r90 21 22 17.5
r91 19 35 0.0438814
r92 19 27 0.1568
r93 17 18 0.125854
r94 16 17 0.7104
r95 15 16 0.169412
r96 14 15 0.5248
r97 13 14 0.125167
r98 13 60 0.1408
r99 11 35 0.0511024
r100 11 18 0.148267
r101 9 10 0.00499976
r102 8 9 0.204914
r103 7 8 0.150926
r104 5 40 2.2275
r105 5 41 2.2725
r106 4 7 0.114511
r107 4 5 17.5
r108 2 58 0.051916
r109 2 10 0.1568
r110 1 54 117.944
r111 1 48 117.7
.ends

.subckt PM_LATCH_GND 1 4 9 10 11 12 15 19 22 39 42 48 49 50
c55 50 0 0.032031f
c56 49 0 0.150442f
c57 48 0 0.0143463f
c58 22 0 0.134401f
c59 15 0 0.00994509f
c60 12 0 0.00559334f
c61 11 0 0.0222389f
c62 10 0 0.0045173f
c63 9 0 0.0168174f
c64 4 0 0.00995792f
r65 49 50 0.0788373
r66 23 48 0.0860195
r67 23 45 0.0125689
r68 23 34 17.5
r69 22 23 2
r70 19 22 0.339834
r71 16 42 5.5
r72 15 16 35
r73 13 49 0.051916
r74 13 15 0.325333
r75 12 50 0.695467
r76 11 12 0.168421
r77 10 11 0.507733
r78 9 10 0.186885
r79 9 48 0.386133
r80 5 39 5.445
r81 4 5 35
r82 2 45 0.051916
r83 2 4 0.325333
r84 1 34 120.3
.ends

.subckt PM_LATCH_XI10.NET16 1 2
r1 1 2 11
.ends

.subckt PM_LATCH_XI11.NET16 1 2
r1 1 2 11
.ends

