* File: inverter_symb.pex.netlist.pex
* Created: Sun Aug 29 09:07:18 2021
* Program "Calibre xRC"
* Version "v2017.1_34.33"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVERTER_SYMB_IN 7 11 14 16
c18 16 0 0.00784908f
c19 11 0 0.024632f
c20 7 0 0.0232644f
r21 14 16 16
r22 9 16 0.704746
r23 9 11 84
r24 5 16 0.704746
r25 5 7 60
.ends

.subckt PM_INVERTER_SYMB_VSS 1 2 3 6 10 11 13 25
c17 13 0 0.0417136f
c18 11 0 0.00730064f
c19 10 0 4.83546e-19
c20 9 0 3.32537e-19
c21 6 0 0.00562984f
c22 4 0 5.37273e-19
c23 3 0 0.0137189f
c24 2 0 0.00449527f
r25 19 20 8.75
r26 16 20 0.5
r27 11 16 0.159029
r28 11 13 0.471411
r29 9 10 0.0236433
r30 7 25 5.5
r31 6 7 35
r32 4 10 0.0236433
r33 4 6 0.0762463
r34 3 9 0.0102444
r35 2 20 0.242826
r36 2 3 0.327822
r37 1 19 2.1
.ends

.subckt PM_INVERTER_SYMB_VDD 1 6 9 10 11 13 18 23
c17 23 0 1.58752e-19
c18 13 0 0.035703f
c19 11 0 0.00794317f
c20 10 0 4.38496e-19
c21 9 0 5.37273e-19
c22 6 0 0.0115273f
c23 3 0 0.0130473f
c24 2 0 4.98805e-19
r25 22 23 8.75
r26 16 23 0.5
r27 11 16 0.181489
r28 11 13 0.423957
r29 9 10 0.0153667
r30 7 18 2.25
r31 6 7 17.5
r32 4 9 0.0236433
r33 4 6 0.379982
r34 3 23 0.14064
r35 2 10 0.0153667
r36 2 3 0.317578
r37 1 22 2.56667
.ends

.subckt PM_INVERTER_SYMB_OUT 3 9 12 15 20 22 23 26
c16 22 0 9.76774e-19
c17 20 0 0.0183678f
c18 15 0 0.0010214f
c19 12 0 0.0117888f
c20 9 0 0.00305934f
c21 3 0 0.00738289f
r22 18 22 0.0240309
r23 18 20 0.149333
r24 14 15 0.0446266
r25 13 23 2.25
r26 12 15 0.0446266
r27 12 13 17.5
r28 10 22 0.0658849
r29 10 14 0.210011
r30 8 9 0.0942489
r31 4 26 5.5
r32 3 8 0.116264
r33 3 4 35
r34 1 22 0.0658849
r35 1 9 0.0952733
.ends

